US07402595B2
methyl [4-[(6-bromo-1-oxo-4-phenyl-3-propionyl-2(1H)-isoquinolinyl)methyl]phenyl]sulfonylcarbamate
To a mixture of 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide (0.2 g), triethylamine (0.11 ml), 4-dimethylaminopyridine (23 mg) and methylene chloride (2.0 ml) was added methyl chlorocarbonate (35 μl) at room temperature with stirring, and the mixture was stirred at the same temperature for 1 hr. After the completion of the reaction, the reaction mixture was washed with 1N hydrochloric acid, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=3/1-1/1), crystallized from hexane/ethyl acetate=3/2 to give the title compound (0.15 g) as colorless crystals. 1H NMR (CDCl3) δ: 0.48 (3H, t, J=6.9 Hz), 1.69 (2H, q, J=6.9 Hz), 3.68 (3H, s), 5.38 (2H, s), 7.23-7.32 (2H, m), 7.41 (2H, d, J=8.7 Hz), 7.44-7.53 (5H, m), 7.69 (1H, dd, J=2.1, 8.4 Hz) 7.98 (2H, d, J=8.7 Hz), 8.40 (1H, d, J=8.4 Hz).

reactant | 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide | 0.2 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)N)C(CC)=O)C1=CC=CC=C1 | C25H21BrN2O4S
reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 35 μl | C(OC)(=O)Cl | C2H3ClO2
catalyst | 4-dimethylaminopyridine | 23 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | methyl [4-[(6-bromo-1-oxo-4-phenyl-3-propionyl-2(1H)-isoquinolinyl)methyl]phenyl]sulfonylcarbamate | 0.15 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)NC(OC)=O)C(CC)=O)C1=CC=CC=C1 | C27H23BrN2O6S
